US04266011
16.8 g (0.05 mol) of 2,2'-dinitro-biphenyl-4,4'-dicarboxylic acid are dissolved in 150 ml of water and 13.5 g (0.1 mol) of 30% sodium hydroxide solution. 100 mg of palladium-on-active charcoal (10%) and 50 mg of platinum oxide are added and the mixture is hydrogenated under normal pressure. 4.7 l of hydrogen are absorbed. The catalyst is filtered off with suction and the filtrate is rendered slightly acid. The precipitate is filtered off with suction and recrystallised from dimethylsulfoxide. 8.5 g (63.4%) of benzo-[c]-cinnoline-3,8-dicarboxylic acid are obtained.

reactant | 2,2'-dinitro-biphenyl-4,4'-dicarboxylic acid | 0.05 mol, 16.8 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(=O)O)C1=C(C=C(C=C1)C(=O)O)[N+](=O)[O-] | C14H8N2O8
reactant | sodium hydroxide | 0.1 mol, 13.5 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
catalyst | palladium | 100 mg | [Pd] | Pd
catalyst | platinum oxide | 50 mg | [Pt]=O
product | benzo-[c]-cinnoline-3,8-dicarboxylic acid | 8.5 g, 63.4% | C1=CC(=CC=2N=NC=3C=C(C=CC3C21)C(=O)O)C(=O)O | C14H8N2O4
